Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Malaise and cloudy urine.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
In brief, this patient is a ___ w/ HTN, T2DM, CKD, h/o bladder 
cancer s/p cystectomy w/ ilal conduit, and R nephrectomy c/b 
recurrent UTIs who presented with malaise and cloudy urine.

She describes 5d of fatigue, poor glucose control, and squeezing 
discomfort in L flank. Similar discomfort to previous UTIs. 
Denies fevers, suprapubic pain, never feels dysuria. R 
nephrectomy for abscesses and infection. Also no cough, 
myalgias, nausea/vomiting, sick contacts, or recent travel.

In the ED AFVSS on RA. Chem 7 w/ K 5.2, BUN/Cr 34/2.0, CBC wnl, 
UA cloudy w/ >182 WBC, ___, nitrites, many bacteria. UCx/BCx 
pending. Given 1g CTX, 1L LR.

On the floor, felt feverish and had temp 100.4, VSS on RA. 
Received 1g CTX. FSBG 154. This morning denies fever or L flank 
discomfort. Also denies weakness or palpitations.
 
Past Medical History:
CKD (baseline Cr 2)
T2DM
HTN
HLD
Obesity
h/o bladder cancer s/p resection, ileal conduit
h/o UTI w/ MDR bacteria

s/p hysterectomy
s/p tubal ligation
s/p R nephrectomy
 
Social History:
___
Family History:
Father with colon cancer and diabetes. 
 
Physical Exam:
ADMISSION EXAM
==============
General: Obese woman, lying in bed, pleasant NAD  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Obese with well-healed scar. Soft, non-tender, bowel 
sounds present, no rebound or guarding. Urostomy in place 
draining slightly cloudy fluid. No CVA tenderness  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema

DISCHARGE EXAM
==============
GENERAL: Alert, oriented, NAD      
RESP: CTAB  
CV: Regular rate, no MRG 
ABD: +BS, soft, NTND
BACK: No CVA tenderness
GU: Osotomy bag w/ foley draining cloudy urine, ostomy pink, no 
TTP at site
EXT: WWP, no edema  

 
Pertinent Results:
ADMISSION LABS
==============
___ 12:20PM BLOOD Glucose-198* UreaN-34* Creat-2.0* Na-134 
K-5.2* Cl-102 HCO3-19* AnGap-18
___ 12:20PM BLOOD WBC-10.0 RBC-4.25 Hgb-11.4 Hct-36.8 
MCV-87 MCH-26.8 MCHC-31.0* RDW-14.0 RDWSD-44.3 Plt ___
___ 12:20PM BLOOD Neuts-67.2 ___ Monos-9.0 Eos-1.7 
Baso-0.6 Im ___ AbsNeut-6.71* AbsLymp-2.13 AbsMono-0.90* 
AbsEos-0.17 AbsBaso-0.06

NOTABLE LABS
============
___ 12:20PM BLOOD UreaN-34* Creat-2.0* 
___ 06:31AM BLOOD UreaN-34* Creat-2.1* 
___ 06:00AM BLOOD UreaN-34* Creat-2.2* 
___ 12:45PM BLOOD UreaN-34* Creat-2.3*

NOTABLE MICRO
=============
___ URINE - STAPH AUREUS COAG +
SENSITIVITIES: MIC expressed in MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
NITROFURANTOIN--------  <=16 S
OXACILLIN-------------   =>4 R
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------ <=0.5 S

 
Brief Hospital Course:
Ms. ___ is a ___ w/ HTN, T2DM, h/o bladder cancer s/p 
cystectomy + ileal conduit, R nephrectomy, h/o recurrent MDR 
UTIs who presents with a complicated UTI.

BRIEF HOSPITAL COURSE
=====================
#Complicated UTI
UA w/ many WBC, bacteria in ED. Started on empiric CTX. On 
admission unclear if pyelonephritis. Febrile to 101.0, described 
L flank "squeezing", but no CVA tenderness. No fevers after 24hr 
of CTX. Vanco added based on history of infection w/ 
Vanc-sensitive S. Aureus and Enterococcus. Urine culture grew S. 
Aureus sensitive to doxycycline, so started for a 14-day course. 


#Diabetes Mellitus
Blood sugars difficult to control iso infection, ranging from 
150s-210s even after addition of Humalog sliding scale to home 
lantus regimen. As infection was treated, blood sugar control 
improved on the same regimen.

CHRONIC PROBLEMS
================
#HTN
Fractionated home metoprolol. SBP 110s-150s during admission. 
One episode of asymptomatic hypotension to the ___ systolic that 
resolved with 1.5L NS.

 # CODE: Full (confirmed)  
 # CONTACT: Husband ___ ___ 

TRANSITIONAL ISSUES
===================
[ ] Follow up with PCP ___, ensure tolerating antibiotic 
regimen with continue improvement of symptoms
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PNEUMOcoccal 23-valent polysaccharide vaccine 0.5 ml IM NOW 
X1 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. Vitamin D2 (ergocalciferol (vitamin D2)) 50,000 unit oral 
1X/WEEK 
4. Pravastatin 80 mg PO QPM 
5. Glargine 43 Units Bedtime

 
Discharge Medications:
1. Glargine 43 Units Bedtime
2. Pravastatin 80 mg PO QPM 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Vitamin D2 (ergocalciferol (vitamin D2)) 50,000 unit oral 
1X/WEEK 
5. Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*23 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
Complicated UTI
Acute on Chronic Kidney Disease
Diabetes Mellitus

SECONDARY DIAGNOSES
===================
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because several tests 
indicated that you were having another infection of your urine. 
You were started on Ceftriaxone (an antibiotic) to begin your 
treatment. You had a few fevers after admission, and Vancomycin 
(another antibiotic) was added as well based on data from your 
previous urinary tract infections. Eventually, the results from 
your initial urine test revealed that you were infected with a 
bacteria called Staph Aureus that was sensitive to Doxycycline, 
so you were started on that antibiotic. You should continue to 
take the doxycycline until ___.

Please follow-up with your primary care physician after 
discharge. It was a pleasure taking care of you, and we wish you 
all the best!

Sincerely,
Your ___ Team 
 
Followup Instructions:
___